US04462923
20.3 g of benzenesulphonyl chloride are added while stirring to a mixture of 9.45 g of trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxamide and 55 ml of pyridine. After 2 hours, the solution is poured into a mixture of 100 g of ice and 0.9 ml of half-concentrated hydrochloric acid. The precipitated product is taken up in ether and the ether extract is washed neutral with water, dried and evaporated. The crude product is purified by chromatography on 200 g of silica gel with hexane/benzene (1:1) and subsequent bulb-tube distillation at 135° C./0.05 mmHg. There is obtained trans-2-(4-propylcyclohexyl)-5-pyrimidinecarbonitrile; m.p. 74° C., cl.p 89.5° C., smectic-nematic phase transition 71.5° C. (monotropic).

reactant | benzenesulphonyl chloride | 20.3 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxamide | 9.45 g | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C(=O)N | C14H21N3O
reactant | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | trans-2-(4-propylcyclohexyl)-5-pyrimidinecarbonitrile | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C#N | C14H19N3
